US05478846
A) N-[4[3-[4-(4-Fluorobenzoyl)-1-piperidinyl]1-oxopropyl]phenyl]methanesulfonamide monohydrochloride
A mixture of 4-fluorophenyl-4-piperidinyl methanone (3.30 g, 15.9 mmol) and N-[4-(3-chloro-1-oxopropyl)phenyl]methanesulfonamide was prepared in n-butanol (100 mL), treated with potassium bicarbonate (1.60 g, 1.6.0 mmol) and a catalytic amount of potassium iodide and refluxed for 18 hours. The mixture was cooled to room temperature and evaporated at reduced pressure onto neutral alumina. The resulting solid was put on top of a column of silica gel and eluted with acetone. The appropriate fractions were combined and evaporated to afford an orange oil. The oil was dissolved in ethyl acetate, dried (MgSO4), filtered, and treated with a slight excess of HCl in EtOAc. The resulting solid was filtered and recrystallized from methanol to yield the desired product as tan crystals: mp 230°-236° C. (decomp.).

reactant | 4-fluorophenyl-4-piperidinyl methanone | 15.9 mmol, 3.30 g | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | N-[4-(3-chloro-1-oxopropyl)phenyl]methanesulfonamide | ClCCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C10H12ClNO3S
reactant | potassium bicarbonate | 1.60 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | [I-].[K+]
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4[3-[4-(4-Fluorobenzoyl)-1-piperidinyl]1-oxopropyl]phenyl]methanesulfonamide monohydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCC(=O)C2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | InChI=1S/C22H25FN2O4S.ClH/c1-30(28,29)24-20-8-4-16(5-9-20)21(26)12-15-25-13-10-18(11-14-25)22(27)17-2-6-19(23)7-3-17;/h2-9,18,24H,10-15H2,1H3;1H
